US05084457
To 0.10 g of 2-[[(benzoylamino)thioxomethyl]amino]-N-methylbenzamide in 2.0 ml of N,N-dimethylformamide was added 0.35 ml of 1N sodium hydroxide at 0° C., followed by 0.04 ml of methyl iodide. The solution was stirred and allowed to reach room temperature over 30 minutes. This was diluted with water to give 0.074 g of N-benzoyl-N'-(2-methylaminocarbonylphenyl)carbamimidothioic acid, methyl ester as colorless crystals, mp 193°-195° C. This compound was reacted with sodium hydride in tetrahydrofuran by refluxing for 21/2 hours to give N-(3,4-dihydro-3-methyl-4-oxo-2-quinazolinyl)benzamide, mp 185°-187° C.

reactant | 2-[[(benzoylamino)thioxomethyl]amino]-N-methylbenzamide | 0.10 g | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C(=O)NC)C=CC=C1 | C16H15N3O2S
reactant | sodium hydroxide | 1N, 0.35 ml | [OH-].[Na+]
reactant | methyl iodide | 0.04 ml | CI | CH3I
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-benzoyl-N'-(2-methylaminocarbonylphenyl)carbamimidothioic acid, methyl ester | 0.074 g | C(C1=CC=CC=C1)(=O)NC(=NC1=C(C=CC=C1)C(=O)NC)SC | C17H17N3O2S
